US07772262B2
g) N-{4-[4-(4-Fluorophenyl)-1,1-dioxoisothiazolidin-2-yl]-5-methanesulfonyl-2-methylbenzoyl}guanidine
44.48 g of KOtBu were dissolved in 800 ml of anhydrous DMF and, at RT, 45.44 g of guanidinium chloride were added. After stirring at RT for 1 hour, the solution was poured into a solution of 35.00 g of methyl 4-[4-(4-fluoro-phenyl)-1,1-dioxoisothiazolidin-2-yl]-5-methanesulfonyl-2-methylbenzoate in 300 ml of anhydrous DMF. The mixture was then stirred at RT for 5 hours. It was then poured into 2 l of water, adjusted to pH=8 with aqueous HCl solution and extracted 5 times with 300 ml of EA each time. After drying over MgSO4, the solvent was removed in vacuo.

reactant | KOtBu | 44.48 g | CC(C)(C)[O-].[K+]
reactant | guanidinium chloride | 45.44 g | [Cl-].NC(=[NH2+])N
reactant | methyl 4-[4-(4-fluoro-phenyl)-1,1-dioxoisothiazolidin-2-yl]-5-methanesulfonyl-2-methylbenzoate | 35.00 g | FC1=CC=C(C=C1)C1CN(S(C1)(=O)=O)C1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C19H20FNO6S2
reactant | HCl | Cl | ClH
solvent | DMF | 800 ml | CN(C)C=O | C3H7NO
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | water | 2 l | O | H2O
product | N-{4-[4-(4-Fluorophenyl)-1,1-dioxoisothiazolidin-2-yl]-5-methanesulfonyl-2-methylbenzoyl}guanidine | FC1=CC=C(C=C1)C1CN(S(C1)(=O)=O)C1=CC(=C(C(=O)NC(=N)N)C=C1S(=O)(=O)C)C | C19H21FN4O5S2
